US08703763B2
a) (rac)-3-Benzyl-6-oxa-3-aza-bicyclo[3.2.1]octan-8-one
A solution of benzylamine (1.26 mL, 11.6 mmol) in methanol (2 mL) was added drop wise to a refluxing solution of dihydro-furan-3-one (1 g, 11.6 mmol), paraformaldehyde (1.04 g, 34.84 mmol), and glacial acetic acid (0.67 mL, 11.61 mmol) in methanol (8 mL) over a period of 3 hours under nitrogen. Reflux was continued for 1 hour after which, the brown reaction mixture was stirred at 23° C. for 16 hours. The reaction mixture was concentrated in vacuo. The resulting oil was diluted with water and basified with 6 N aqueous NaOH solution. The aqueous solution was extracted with ethyl acetate, washed with water, brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by flash column chromatography on silica gel with 25-30% ethyl acetate in hexane as eluent. The title compound was obtained as a colorless sticky liquid (500 mg, 20%).

reactant | benzylamine | 11.6 mmol, 1.26 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | dihydro-furan-3-one | 11.6 mmol, 1 g | O1CC(CC1)=O | C4H6O2
reactant | paraformaldehyde | 34.84 mmol, 1.04 g | C=O | CH2O
reactant | acetic acid | 11.61 mmol, 0.67 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 2 mL | CO | CH4O
solvent | methanol | 8 mL | CO | CH4O
product | (rac)-3-Benzyl-6-oxa-3-aza-bicyclo[3.2.1]octan-8-one | C(C1=CC=CC=C1)N1CC2COC(C1)C2=O | C13H15NO2
